US05574021
To a solution of 0.995 g (2.6 mmol) of 1-(acetoxy)-3,5-bis(acetyl)-2-deoxy-2,2-difluororibose in tetrahydrofuran (10ml) at -65° C. were added 5.1 ml of a 1M solution of potassium t-butoxide in tetrahydrofuran (5.1 mmol) dropwise over 10 minutes. The reaction mixture was stirred 3 hours at -65° C. and then 0.58 ml of glacial acetic acid (10.2 mmol) were added to quench the reaction. The reaction mixture was then allowed to warm to room temperature and was concentrated under reduced pressure. The residue was dissolved in ethyl acetate and washed with water. Organics were dried with sodium sulfate and concentrated under reduced pressure. The residue was triturated with diethyl ether (10 ml) and the resulting solid was dried under reduced pressure at 40° C. to give 0.63 g of 1-(acetoxy)-5-(acetyl)-2-deoxy-2,2-difluororibose.

reactant | 1-(acetoxy)-3,5-bis(acetyl)-2-deoxy-2,2-difluororibose | 2.6 mmol, 0.995 g | C(C)(=O)OC(=O)C([C@](O)([C@H](O)C(O)C(C)=O)C(C)=O)(F)F | C11H14F2O8
reactant | potassium t-butoxide | CC(C)([O-])C.[K+]
reactant | acetic acid | 10.2 mmol, 0.58 ml | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 10ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5.1 mmol | O1CCCC1 | C4H8O
product | 1-(acetoxy)-5-(acetyl)-2-deoxy-2,2-difluororibose | 0.63 g | C(C)(=O)OC(=O)C([C@H](O)[C@H](O)C(O)C(C)=O)(F)F | C9H12F2O7
